US05455273
d) trans-4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-N-(4-chlorobenzoyl)-N-methylcyclohexylamine
from trans-4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-N-methylcyclohexylamine and 4-chlorobenzoylchloride. Melting point: 172°-174° C.

reactant | trans-4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C(CNC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NC | C21H34N2O2
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-4-[4-(1-tert.butoxycarbonyl-methylaminoethyl)-phenyl]-N-(4-chlorobenzoyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C(CNC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C)C(C1=CC=C(C=C1)Cl)=O | C28H37ClN2O3
